US07691882B2
3-(2-Nitro-ethyl)-biphenyl
To a mixture of 3-phenyl-benzaldehyde (430 mg, 2.4 mmol) described in Manufacturing Example 85-1-1 and acetic acid (7 mL) were added nitromethane (0.95 mL, 18 mmol) and ammonium acetate (540 mg, 7.1 mmol), which was stirred for 2.5 hours at 100° C. The reaction mixture was cooled to room temperature, and water was added at the same temperature, followed by extraction with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. A mixture of dimethyl sulfoxide (9.3 mL) and acetic acid (0.62 mL) was added to the resulting residue, and sodium borohydride (140 mg, 3.8 mmol) was added to the reaction mixture at room temperature while cooling appropriately. The reaction mixture was stirred for 10 minutes at the same temperature. Water was added to the reaction solution at room temperature, which was then extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, and was concentrated under a reduced pressure. The resulting residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=5:1) to obtain the title compound (380 mg, 71%).

reactant | 3-phenyl-benzaldehyde | 2.4 mmol, 430 mg | C1(=CC=CC=C1)C=1C=C(C=O)C=CC1 | C13H10O
reactant | nitromethane | 18 mmol, 0.95 mL | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 7.1 mmol, 540 mg | C(C)(=O)[O-].[NH4+]
reactant | sodium borohydride | 3.8 mmol, 140 mg | [BH4-].[Na+]
solvent | Water | O | H2O
solvent | acetic acid | 7 mL | C(C)(=O)O | C2H4O2
product | 3-(2-Nitro-ethyl)-biphenyl | 380 mg, 71% | [N+](=O)([O-])CCC=1C=C(C=CC1)C1=CC=CC=C1 | C14H13NO2
